US04374829
2-Oxoglutaric acid (1.46 g) and L-alanyl-L-proline (0.37 g) were treated with sodium cyanoborohydride (0.38 g) as described above. Crude N-(1,3-dicarboxypropyl)-L-alanyl-L-proline (0.47 g) was obtained, m.p. 140°-160°. The mass spectrum of silylated material showed an ion at 517 m/e equivalent to the molecular ion for the trisilylated derivative minus methyl (532-15). The nmr spectrum was consistent with structure. Methyl resonances were centered at 1.4 ppm.

reactant | 2-Oxoglutaric acid | 1.46 g | O=C(C(=O)O)CCC(=O)O | C5H6O5
reactant | L-alanyl-L-proline | 0.37 g | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
reactant | sodium cyanoborohydride | 0.38 g | C(#N)[BH3-].[Na+]
product | N-(1,3-dicarboxypropyl)-L-alanyl-L-proline | 0.47 g | C(=O)(O)C(CCC(=O)O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C13H20N2O7
